US09403834B2
To a solution of methyl 2-(3-phenyl-1H-pyrrole-2-carbonyl)hydrazinecarboxylate (4.00 g, 15.0 mmol) in ethanol (60 mL) was added potassium hydroxide (4.33 g, 770 mmol) at room temperature and heated to 85° C. for 30 min. The reaction mixture was evaporated under reduced pressure to give a brown solid, which was redissolved in water (100 mL) and acidified with saturated citric acid solution to pH 7. The solid obtained was filtered through the Buchner funnel and further it was triturated with hexane to yield 8-phenyl-2,3-dihydropyrrolo[1,2-d][1,2,4]triazine-1,4-dione (3.00 g, 86.0%) as a white solid. LCMS method B-3: retention time 1.59 min, [M+1]=228.0. 1H NMR (400 MHz, DMSO-d6) δ ppm: 6.88 (d, J=2.8 Hz, 1H), 7.29-7.39 (m, 3H), 7.64-7.66 (m, 2H), 7.76 (d, J=2.8 Hz, 1H), 11.43 (br s, 2H).

reactant | methyl 2-(3-phenyl-1H-pyrrole-2-carbonyl)hydrazinecarboxylate | 15.0 mmol, 4.00 g | C1(=CC=CC=C1)C1=C(NC=C1)C(=O)NNC(=O)OC | C13H13N3O3
reactant | potassium hydroxide | 770 mmol, 4.33 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 8-phenyl-2,3-dihydropyrrolo[1,2-d][1,2,4]triazine-1,4-dione | 3.00 g, 86.0% | C1(=CC=CC=C1)C=1C=CN2C(NNC(C21)=O)=O | C12H9N3O2
